US04433152
A mixture of 4.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride and 2.75 g of m-trifluoromethylphenol was suspended in 27 ml of dry pyridine. To the suspension was added 3.5 g of dicyclohexylcarbodiimide, and the resulting mixture was stirred at room temperature for 6 hours. After removal of any insoluble materials, the solvent was removed. The residue was washed with ether, dissolved in chloroform and then stirred. After removal of any insoluble materials, the filtrate was washed twice with a saturated sodium chloride solution and then dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to obtain 4.0 g (yield: 62.0%) of m-trifluoromethylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 97° to 100° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | m-trifluoromethylphenol | 2.75 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | dicyclohexylcarbodiimide | 3.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
product | m-trifluoromethylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 4.0 g, yield: 62.0% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC(=CC=C1)C(F)(F)F | InChI=1S/C16H20F3N3O2.ClH/c17-16(18,19)12-2-1-3-13(10-12)24-14(23)5-4-11-6-8-22(9-7-11)15(20)21;/h1-3,10-11H,4-9H2,(H3,20,21);1H
